US06897208B2
A mixture of 2-(bis-methylsulfanyl-methylene)-1-(5-methyl-1H-benzoimidazol-2-yl)-pentan-1-one [˜0.49 mmole, Reference Example 2(1)] and hydrazine hydrate (200 μL) in ethanol (6 mL) was heated at reflux temperature for 2 days, then evaporated. The mixture was then treated with hydrochloric acid (4 mL, 4N) and heating was continued at reflux temperature for a further 24 hours. The reaction mixture was cooled, then neutralised by addition of sodium hydroxide solution (4N) and then extracted with dichloromethane. The extract was evaporated to give 5-methyl-2-(5-methylsulfanyl-4-propyl-1H-pyrazol-3-yl)-1H-benzoimidazole. MS: 287 (M+H)+. (b) 2-(5-(4-methoxy-benzylsulfanyl)-4-propyl-1H-pyrazol-3-yl)-5-methyl-1H-benzoimidazole

reactant | 2-(bis-methylsulfanyl-methylene)-1-(5-methyl-1H-benzoimidazol-2-yl)-pentan-1-one | ˜0.49 mmole | CSC(=C(C(=O)C1=NC2=C(N1)C=CC(=C2)C)CCC)SC | C16H20N2OS2
reactant | hydrazine hydrate | 200 μL | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 5-methyl-2-(5-methylsulfanyl-4-propyl-1H-pyrazol-3-yl)-1H-benzoimidazole | CC1=CC2=C(NC(=N2)C2=NNC(=C2CCC)SC)C=C1 | C15H18N4S
